US04565654
To a solution of 28 mg (0.1 mmole) of N-acetoxy-3-(Cbz-amino)-2-azetidinone, prepared as described by Example 2, in 8 ml of ethyl acetate under nitrogen were added 25 mg of 5% palladium on carbon and 25.5 mg (0.1 mmole) of phenylacetic anhydride. Hydrogen was passed slowly over the stirred solution for 2 hours at room temperature. The catalyst was filtered and washed with 20 ml of ethyl acetate. The wash was combined with the filtrate and the whole extracted with 25 ml of 5% sodium bicarbonate to remove the phenylacetic acid. The organic layer was washed with 20 ml of brine, dried over magnesium sulfate, filtered and evaporated to provide 25 mg of N-acetoxy-3-(phenylacetylamino)-2-azetidinone as a white solid. The white solid was recrystallized from ethyl acetate-hexanes to provide the purified product melting at about 147° C. to about 149° C. Rf [silica gel with ethyl acetate-hexanes (8:2, v:v)]=0.5.

reactant | N-acetoxy-3-(Cbz-amino)-2-azetidinone | 0.1 mmole, 28 mg | C(C)(=O)ON1C(C(C1)NC(=O)OCC1=CC=CC=C1)=O | C13H14N2O5
reactant | phenylacetic anhydride | 0.1 mmole, 25.5 mg | C1(=CC=CC=C1)CC(=O)OC(CC1=CC=CC=C1)=O | C16H14O3
reactant | Hydrogen | [H][H] | H2
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 25 mg | [Pd] | Pd
product | N-acetoxy-3-(phenylacetylamino)-2-azetidinone | 25 mg | C(C)(=O)ON1C(C(C1)NC(CC1=CC=CC=C1)=O)=O | C13H14N2O4
